US04026891
(b) 6-(3',4'-Diamino-phenyl)-4,5-dihydro-3(2H)-pyridazinone
4.68 gm of 6-(4'-amino-3'-nitro-phenyl)-4,5-dihydro-3(2H)-pyridazinone werehydrogenated in 500 ml of ethanol at 40° C. for 4 hours in the presence of 1 gm of platinum dioxide at 5 atmospheres. Thereafter, the solution was cooled and filtered, and the filter cake was boiled with a mixture of 4 parts of isopropanol and 1 part of water. The resulting mixture was filtered, and upon cooling, the desired product crystallized out of the filtrate; m.p. 226° C.

reactant | 6-(4'-amino-3'-nitro-phenyl)-4,5-dihydro-3(2H)-pyridazinone | 4.68 gm | NC1=C(C=C(C=C1)C=1CCC(NN1)=O)[N+](=O)[O-] | C10H10N4O3
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | platinum dioxide | 1 gm | [Pt](=O)=O
product | 6-(3',4'-Diamino-phenyl)-4,5-dihydro-3(2H)-pyridazinone | NC=1C=C(C=CC1N)C=1CCC(NN1)=O | C10H12N4O
